US06284748B1
A solution of furan (1 mmol) in diethyl ether was treated with TMEDA (N,N,N′N′-tetramethylethylenediamine) (1 mmol) and nBuLi (2 mmol) at −78° C. The solution was stirred for 0.5 h. at −78° C. and diethyl chlorophosphate was added and stirred for another 1 h. Extraction and distillation produced diethyl 2-furanphosphonate as a clear oil.

reactant | furan | 1 mmol | O1C=CC=C1 | C4H4O
reactant | nBuLi | 2 mmol | [Li]CCCC
reactant | diethyl chlorophosphate | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
solvent | diethyl ether | C(C)OCC | C4H10O
product | diethyl 2-furanphosphonate | O1C(=CC=C1)P(OCC)(=O)OCC | C8H13O4P
